US06150335
Most Boc-amino acids used in the peptide syntheses are commercially available. 2-methyltyrosine (Mmt) was prepared by catalytic hydrogenation (Pd/C) of 7-hydroxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (7-OH-Tic) in AcOH under H2 pressure at 3 atm. 2',6'-dimethyltyrosine (Dmt) was prepared as described by J. H. Dygos et al. Synthesis, No. 8 (August) pp. 741-743 (1992). Most of the C-terminal amine substituents were also commercially available. 2-(2-bromophenyl)ethylamine, 2-(2-methylphenyl)ethylamine and 2,2-diphenylpropylamine were prepared by reduction of the corresponding nitriles with lithium aluminum hydride, as described by L. M. Amundsen and L. S. Nelson J. Am. Chem. Soc. 73, 242 (1951). 2-(2-biphenyl)ethylamine was synthesized as described by S. Goldschmidt and W. L. C. Veer Recueil 67, 489 (1948). Ethyl-α-phenyl-β-aminopropionate in racemic form was synthesized as described by E. Testa et al. Liebig's Ann. Chem. 614, 167 (1958). Acid hydrolysis of the latter product and subsequent amidation afforded racemic α-phenyl-β-aminopropionamide. 2,2-dicyclohexylethylamine was prepared from 2,2-diphenylethylamine by catalytic hydrogenation (Rh on carbon) at 6° C. under pressure (60 psi).

reactant | 2,2-diphenylethylamine | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
catalyst | Rh on carbon | [Rh] | Rh
product | 2,2-dicyclohexylethylamine | C1(CCCCC1)C(CN)C1CCCCC1 | C14H27N
